Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
shellfish derived
 
Attending: ___.
 
Chief Complaint:
left hip pain
 
Major Surgical or Invasive Procedure:
Conversion prior surgery to left THA ___, ___

 
History of Present Illness:
___ year old male with severe post-traumatic left hip OA with 
retained hardware, here for elective conversion to left THA with 
Dr. ___.
 
Past Medical History:
asthma, OSA, OA, L acetabular fx, HTN

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well appearing in no acute distress  
Afebrile with stable vital signs  
Pain well-controlled  
Respiratory: CTAB  
Cardiovascular: RRR  
Gastrointestinal: NT/ND  
Genitourinary: Voiding independently  
Neurologic: Intact with no focal deficits  
Psychiatric: Pleasant, A&O x3  
Musculoskeletal Lower Extremity:  
* Aquacel dressing with scant serosanguinous drainage  
* Thigh full but soft  
* No calf tenderness  
* ___ strength  
* SILT, NVI distally  
* Toes warm

 
Pertinent Results:
___ 06:30AM BLOOD Hgb-10.4* Hct-30.9*
___ 06:30AM BLOOD Creat-0.8
 
Brief Hospital Course:
The patient was admitted to the orthopedic surgery service and 
was taken to the operating room for above described procedure. 
Please see separately dictated operative report for details. The 
surgery was uncomplicated and the patient tolerated the 
procedure well. Patient received perioperative IV antibiotics.

Postoperative course was unremarkable.

Pain was controlled with a combination of IV and oral pain 
medications.  The patient received Lovenox daily for DVT 
prophylaxis starting on the morning of POD#1.  The Aquacel 
dressing remained clean and intact without erythema or abnormal 
drainage/saturation. The patient was seen daily by physical 
therapy. Labs were checked throughout the hospital course and 
repleted accordingly. At the time of discharge, the patient was 
tolerating a regular diet and feeling well.  The patient was 
afebrile with stable vital signs.  The patient's hematocrit was 
acceptable and pain was adequately controlled on an oral 
regimen. The operative extremity was neurovascularly intact.
  
The patient's weight-bearing status is weight bearing as 
tolerated on the operative extremity with posterior hip 
precautions. Please use walker or 2 crutches for as long as you 
need. The physical therapist will help guide you until you are 
safe to wean from assistive devices.
  
Ms. ___ is discharged to home with services in stable 
condition.

 
Medications on Admission:
1. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN allergy 
sypmtoms  
2. Montelukast 10 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
4. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
5. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, sob 
6. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Docusate Sodium 100 mg PO BID  
3.  Enoxaparin Sodium 40 mg SC DAILY  
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain 
5.  Senna 8.6 mg PO BID  
6.  Albuterol Inhaler ___ PUFF IH Q4H:PRN wheeze, sob  
7.  Fluticasone Propionate NASAL 1 SPRY NU BID:PRN allergy 
sypmtoms   
8.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
9.  Hydrochlorothiazide 12.5 mg PO DAILY  
10.  Montelukast 10 mg PO DAILY  
11. HELD- Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  This 
medication was held. Do not restart Ibuprofen until you've been 
cleared by your surgeon

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
post-traumatic left hip OA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
1. Please return to the emergency department or notify your 
physician if you experience any of the following: severe pain 
not relieved by medication, increased swelling, decreased 
sensation, difficulty with movement, fevers greater than 101.5, 
shaking chills, increasing redness or drainage from the incision 
site, chest pain, shortness of breath or any other concerns.
  
2. Please follow up with your primary physician regarding this 
admission and any new medications and refills. 
  
3. Resume your home medications unless otherwise instructed.
  
4. You have been given medications for pain control. Please do 
not drive, operate heavy machinery, or drink alcohol while 
taking these medications. As your pain decreases, take fewer 
tablets and increase the time between doses. This medication can 
cause constipation, so you should drink plenty of water daily 
and take a stool softener (such as Colace) as needed to prevent 
this side effect.  Call your surgeons office 3 days before you 
are out of medication so that it can be refilled.  These 
medications cannot be called into your pharmacy and must be 
picked up in the clinic or mailed to your house.  Please allow 
an extra 2 days if you would like your medication mailed to your 
home.
  
5. You may not drive a car until cleared to do so by your 
surgeon.
  
6. Please call your surgeon's office to schedule or confirm your 
follow-up appointment.
  
7. SWELLING: Ice the operative joint 20 minutes at a time, 
especially after activity or physical therapy. Do not place ice 
directly on the skin. 
  
8. ANTICOAGULATION: Please continue your Lovenox 40 mg 
subcutaneously x 4 weeks post-operatively to prevent blood 
clots. 
  
9. WOUND CARE: Please keep your incision clean and dry. It is 
okay to shower after surgery while wearing your aquacel 
dressing, but no tub baths, swimming, or submerging your 
incision until after your first checkup and cleared by your 
surgeon. After the aquacel dressing is removed 7 days after your 
surgery, you may leave the wound open to air. Check the wound 
regularly for signs of infection such as redness or thick yellow 
drainage and promptly notify your surgeon of any such findings 
immediately.
  
10. ___ (once at home): Home ___, Aquacel removal POD#7, and 
wound checks as needed thereafter.
  
11. ACTIVITY: Weight bearing as tolerated with two crutches or 
walker for as long as you need. The physical therapist will help 
guide you until you are safe to wean from assistive devices. 
Posterior hip precautions. No strenuous exercise or heavy 
lifting until follow up appointment.  Mobilize frequently.

Physical Therapy:
WBAT LLE
Posterior hip precautions 
Wean assistive devices as able (i.e., 2 crutches, walker)
Mobilize frequently

Treatments Frequency:
remove aquacel POD#7 after surgery
apply dry sterile dressing daily if needed after aquacel 
dressing is removed
wound checks daily after aquacel removed

 
Followup Instructions:
___